US07151109B2
Preparation of 7-(2,4-dichlorophenyl)-N,N-diethylpyrazolo[1,5-a]pyridin-3-amine
A solution of 3-diethylamino-7-iodopyrazolo[1,5-a]pyridine (0.20 g, 0.63 mmol) and Pd(PPh3)4 (0.037 g, 0.03 mmol) in DME (5.0 mL) was stirred at room temperature for 10 minutes then treated with 2,4-dichlorophenylboronic acid (0.19 g, 1.27 mmol) and 2M Na2CO3 (3.0 mL). The reaction was heated at 80° C. for 16 hours and cooled down to room temperature. Additional Pd(PPh3)4 (0.037 mg, 0.03 mmol) and 2,4-dichlorophenylboronic acid (0.19 g, 1.27 mmol) were added and heating was continued at 80° C. for 2 hours. The reaction was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×). The combined organic solutions was washed with brine, dried over MgSO4, and concentrated in vacuo to dryness. The residue was subjected to column chromatography (5% ethyl acetate/hexane) to give 0.17 g (79%) of a light yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.81 (s, 1H), 7.66–7.63 (m, 2H), 7.50 (d, J=8.2 Hz, 1H), 7.44 (d, J=8.2 Hz, 1H), 7.14–7.09 (m, 1H), 6.71 (d, J=6.7 Hz, 1H), 3.15 (q, J=7.1 Hz, 4H), 1.09 (t, J=7.1 Hz, 6H); IR (diffuse reflectance) 2968, 2935, 2814, 1487, 1461, 1377, 1334, 1314, 1149, 1096, 921, 881, 867, 827, 791 cm−1; MS (EI) m/z 333 (M+); Anal. Calcd for C17H17Cl2N3: C, 61.09; H, 5.13; N, 12.57. Found: C, 60.97; H, 5.02; N, 12.54.

reactant | 3-diethylamino-7-iodopyrazolo[1,5-a]pyridine | 0.63 mmol, 0.20 g | C(C)N(C=1C=NN2C1C=CC=C2I)CC | C11H14IN3
reactant | 2,4-dichlorophenylboronic acid | 1.27 mmol, 0.19 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2M, 3.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4-dichlorophenylboronic acid | 1.27 mmol, 0.19 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
solvent | DME | 5.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 0.037 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.03 mmol, 0.037 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2,4-dichlorophenyl)-N,N-diethylpyrazolo[1,5-a]pyridin-3-amine | 0.17 g, 79% | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=CC2N(CC)CC | C17H17Cl2N3
